US08071774B2
c) 5-(2-Bromo-5-methoxyphenoxymethyl)-7,8-dihydroquinazoline
A solution of 10 mmol of 5-(2-bromo-5-methoxyphenoxymethyl)-5,6,7,8-tetrahydroquinazolin-5-ol and 20 mmol of phosphorus oxychloride in 20 ml of pyridine is heated at reflux for 0.5-1 hour. The mixture is poured onto ice and extracted with tert-butyl methyl ether. The combined organic extracts are washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the bias of the Rf value.

reactant | 5-(2-bromo-5-methoxyphenoxymethyl)-5,6,7,8-tetrahydroquinazolin-5-ol | 10 mmol | BrC1=C(OCC2(C=3C=NC=NC3CCC2)O)C=C(C=C1)OC | C16H17BrN2O3
reactant | phosphorus oxychloride | 20 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2-Bromo-5-methoxyphenoxymethyl)-7,8-dihydroquinazoline | BrC1=C(OCC=2C=3C=NC=NC3CCC2)C=C(C=C1)OC | C16H15BrN2O2
